US07867999B1
Step A: 4-(Isoquinoline-5-sulfonyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester
To a stirred suspension of isoquinoline-5-sulfonylchloride hydrochloride (3.00 g, 11.4 mmol) in anhydrous methylene chloride (100 mL) was added tert-butyl 1-homopiperazine carboxylate (3.00 g, 15.0 mmol) and triethylamine (4.36 g, 43.1 mmol). The mixture was stirred for 3 h, evaporated to dryness, mixed with a saturated solution of sodium bicarbonate (100 mL) and extracted with ethyl acetate (80 mL×2). The combined extracts were dried, filtered and evaporated to give an oil (4.45 g, 100%). LCMS (+APCI) m/z 392 (M+H).

reactant | isoquinoline-5-sulfonylchloride hydrochloride | 11.4 mmol, 3.00 g | Cl.C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl
reactant | tert-butyl 1-homopiperazine carboxylate | 15.0 mmol, 3.00 g | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | triethylamine | 43.1 mmol, 4.36 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(Isoquinoline-5-sulfonyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 4.45 g, 100% | C(C)(C)(C)OC(=O)N1CCN(CCC1)S(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C19H25N3O4S
